US06576627B1
The 2-methyl-1-(3-phenylpropanoyl)aminopropylphosphinic acid (255 mg) obtained in (a) of Example 2 was added with hexamethyldisilazane (0.3 ml), and the mixture was stirred at 110° C. for 30 minutes. The mixture was then added with the ethyl 2-(4-benzyloxycarbonylaminobutyl)acrylate (356 mg) obtained in the above step (e), and further stirred at the same temperature for 18 hours. The organic substances were extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and then the residue was purified by Sephadex LH-20 (300 cc, methylene chloride:methanol=1:1) to obtain crude ethyl 6-benzyloxycarbonylamino-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)hydroxyphosphinoyl)methylhexanoate (222 mg, 41%). This compound was used in the following reaction without further purification. (g) The crude ethyl 6-benzyloxycarbonylamino-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)hydroxyphosphinoyl)methylhexanoate (222 mg) obtained in the above step (f) was dissolved in a mixed solvent of ethanol:water (10:7) (3.4 ml). The mixture was added with 1 N aqueous sodium hydroxide (0.6 ml) and stirred at room temperature for 3 hours, at 50° C. for 2 hours, and then at room temperature for 16 hours. The reaction mixture was acidified with hydrochloric acid and the organic substances were extracted with ethyl acetate, and then the extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The residue was concentrated to obtain crude 6-benzyloxycarbonylamino-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)hydroxyphosphinoyl)methylhexanoic acid (181 mg, 86%). This compound was subjected to the measurement of molecular weight and then used in the following reaction without further purification.

reactant | 2-methyl-1-(3-phenylpropanoyl)aminopropylphosphinic acid | 255 mg | CC(C(NC(CCC1=CC=CC=C1)=O)P(O)=O)C | C13H20NO3P
reactant | hexamethyldisilazane | 0.3 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ethyl 2-(4-benzyloxycarbonylaminobutyl)acrylate | 356 mg | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)OCC)=C | C17H23NO4
product | ethyl 6-benzyloxycarbonylamino-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)hydroxyphosphinoyl)methylhexanoate | 222 mg, 41% | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)OCC)CP(=O)(O)C(C(C)C)NC(CCC1=CC=CC=C1)=O | C30H43N2O7P
